US07129242B2
1-[(4-{[4-(4-chlorophenyl)pyrimidin-2yl]amino}phenyl)carbonyl]piperidin-4-one (400 mg, 0.980 mmol) was dissolved in 10 mL EtOH along with isopropylamine (58 mg, 0.980 mmol). Sodium cyanoborohydride (62 mg, 0.986 mmol) was added and the mixture was stirred at room temperature for 18 hours. The reaction was quenched with water, extracted with ethyl acetate followed by flash chromatography (EtOAc/MeOH; 90:10) to give a residue. This was taken up in ETOH saturated with HCl(g), diluted with ether, filtered to give 4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}phenyl 4-[(methylethyl)amino]piperidyl ketone hydrochloride (0.150 g, 30% yield): HPLC Retention time; 6.02 min. (Method B) M+1; 450.4.

reactant | 1-[(4-{[4-(4-chlorophenyl)pyrimidin-2yl]amino}phenyl)carbonyl]piperidin-4-one | 0.980 mmol, 400 mg | ClC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)C(=O)N1CCC(CC1)=O | C22H19ClN4O2
reactant | isopropylamine | 0.980 mmol, 58 mg | C(C)(C)N | C3H9N
reactant | Sodium cyanoborohydride | 0.986 mmol, 62 mg | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | ether | CCOCC | C4H10O
product | 4-{[4-(4-chlorophenyl)pyrimidin-2-yl]amino}phenyl 4-[(methylethyl)amino]piperidyl ketone hydrochloride | 0.150 g, 30% yield | Cl.CC(C)NC1CCN(CC1)C(=O)C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=CC=C(C=C1)Cl | InChI=1S/C25H28ClN5O.ClH/c1-17(2)28-22-12-15-31(16-13-22)24(32)19-5-9-21(10-6-19)29-25-27-14-11-23(30-25)18-3-7-20(26)8-4-18;/h3-11,14,17,22,28H,12-13,15-16H2,1-2H3,(H,27,29,30);1H
